US09315489B2
Stage 59.1 5-Bromo-2-fluoro-N-(4-(trifluoromethoxy)phenyl)benzamide
Carbonyldiimidazole (1.054 g, 6.50 mmol) was added to a solution of 5-bromo-2-fluorobenzoic acid (1.129 g, 5.0 mmol) in DMF (10 mL) and the RM was stirred for 2 h at 0° C. 4-(trifluoromethoxy)aniline (1.129 g, 5.0 mmol) was added and the RM was allowed to warm up RT and stirred for 2 days. The solvent was evaporated off under reduced pressure and the residue was treated with aq. NaHCO3, stirred and filtered. The filtered material was washed with water, dissolved in EtOAc, washed with water and brine, dried over Na2SO4 and the solvent was evaporated off under reduced pressure to give the crude product which was purified by flash chromatography (Silica gel column, 100 g, n-hexane/EtOAc 2:1) to afford the title compound as a white crystalline solid. UPLC-MS (Condition 2) tR=1.27 min, m/z=378.0/380.0 [M+H]+.

reactant | Carbonyldiimidazole | 6.50 mmol, 1.054 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 5-bromo-2-fluorobenzoic acid | 5.0 mmol, 1.129 g | BrC=1C=CC(=C(C(=O)O)C1)F | C7H4BrFO2
reactant | 4-(trifluoromethoxy)aniline | 5.0 mmol, 1.129 g | FC(OC1=CC=C(N)C=C1)(F)F | C7H6F3NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 5-Bromo-2-fluoro-N-(4-(trifluoromethoxy)phenyl)benzamide | BrC=1C=CC(=C(C(=O)NC2=CC=C(C=C2)OC(F)(F)F)C1)F | C14H8BrF4NO2
